US07612084B2
4-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]-2-(hydroxymethyl)phenol
{2-(benzyloxy)-5-[(1R)-2-({2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}amino)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}methanol (Preparation 48, 280 mg, 0.30 mmol) was dissolved in ethanol (6 ml) and palladium hydroxide (20% by weight on carbon, 14 mg, 0.02 mmol) was added. The reaction was the hydrogenated under 40 psi at room temperature for 18 hours, cooled to room temperature and the reaction filtered through Celite™ and the filtrate solvent removed in vacuo to furnish the title compound as a gum, 235 mg.

reactant | {2-(benzyloxy)-5-[(1R)-2-({2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}amino)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}methanol | 0.30 mmol, 280 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CO | C60H78N2O5Si
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.02 mmol, 14 mg | [OH-].[Pd+2].[OH-]
product | 4-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]-2-(hydroxymethyl)phenol | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C1=CC(=C(C=C1)O)CO | C46H66N2O5Si
